US07470724B2
({6-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoylamino}-methyl)-phosphonic acid diethyl ester
To a solution of 6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid (50 mg, 0.12 mmol) in THF (1 mL) was added isobutyl chloroformate (17 μL, 0.13 mmol) and triethylamine (50 μL, 0.36 mmol) at 0° C. After stirring at 0° C. for 2 hours, diethyl(aminomethyl)phosphonate oxalate (62 mg, 0.26 mmol) was added and stirring was continued at room temperature for 20 minutes. After removal of solvent, the residue was purified by preparative reverse-phase HPLC to afford 54.8 mg (81%) of the desired product. 1H NMR (300 MHz, CDCl3) δ 0.03 (s, 9H), 1.15-1.22 (m, 2H), 1.31 (t, 6H), 1.81 (s, 3H), 2.18 (s, 3H), 2.30 (m, 4H), 3.41 (d, 2H, J=7 Hz), 3.65 (dd, 2H, J=6, 12 Hz), 3.77 (s, 3H), 3.77-4.16 (m, 4H), 4.26-4.32 (m,2H), 5.12 (s, 2H), 5.17-5.19 (m, 1H), 5.86 (bs, 1H) ppm; 31P (121.4 MHz, CDCl3) δ 23.01 ppm; MS (m/z) 568 [M−H]−, 592 [M+Na]+.

reactant | 6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid | 0.12 mmol, 50 mg | COC1=C(C(=C2C(OCC2=C1C)=O)OCC[Si](C)(C)C)CC=C(CCC(=O)O)C | C22H32O6Si
reactant | isobutyl chloroformate | 0.13 mmol, 17 μL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 0.36 mmol, 50 μL | C(C)N(CC)CC | C6H15N
reactant | diethyl(aminomethyl)phosphonate oxalate | 0.26 mmol, 62 mg | C(C(=O)O)(=O)O.C(C)OP(OCC)(=O)CN
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | ({6-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoylamino}-methyl)-phosphonic acid diethyl ester | 54.8 mg, 81% | C(C)OP(OCC)(=O)CNC(CCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)=O | C27H44NO8PSi
